US04756739
5,6-dichloro-3-difluoromethoxypyridine
Chlorodifluoromethane was passed at 50° C. into a mixture of 32.8 g (0.2 mol) of 5,6-dichloro-3-pyridinol in 200 ml of 1,4-dioxane and 40 g (1 mol) of sodium hydroxide in 100 ml of water until starting material was no longer present. The further procedure was then carried out as described in Example 1.

reactant | Chlorodifluoromethane | ClC(F)F | CHClF2
reactant | 5,6-dichloro-3-pyridinol | 0.2 mol, 32.8 g | ClC=1C=C(C=NC1Cl)O | C5H3Cl2NO
reactant | sodium hydroxide | 1 mol, 40 g | [OH-].[Na+]
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 5,6-dichloro-3-difluoromethoxypyridine | ClC=1C=C(C=NC1Cl)OC(F)F | C6H3Cl2F2NO
